US06916921B2
To a solution of 27.3 g (20S)-4,4-dimethyl-20-[((triisopropylsilyl)oxy)methyl]-pregna-5-en-3-one in 500 ml tetrahydrofuran 1.24 g of lithiumaluminum hydride were added cautiously in small portions at room temperature. The reaction mixture was stirred for one hour and then cooled to 0□C. 2.5 ml water, 2.5 ml of a 1 N sodium hydroxide solution and 7.5 ml of water were added successively. The mixture was filtered over celite. The filtrate was concentrated under reduced pressure. The residue was purified by column chromatography to give 18.2 g (20S)-4,4-dimethyl-20-[((triisopropylsilyl)oxy)methyl]-pregna-5-en-3β-ol as a pale yellow solid.

reactant | (20S)-4,4-dimethyl-20-[((triisopropylsilyl)oxy)methyl]-pregna-5-en-3-one | 27.3 g | CC1(C2=CC[C@H]3[C@@H]4CC[C@H]([C@H](C)CO[Si](C(C)C)(C(C)C)C(C)C)[C@]4(CC[C@@H]3[C@]2(CCC1=O)C)C)C | C33H58O2Si
reactant | lithiumaluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 2.5 ml | O | H2O
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | water | 7.5 ml | O | H2O
solvent | tetrahydrofuran | 500 ml, 1.24 g | O1CCCC1 | C4H8O
product | (20S)-4,4-dimethyl-20-[((triisopropylsilyl)oxy)methyl]-pregna-5-en-3β-ol | 18.2 g | CC1(C2=CC[C@H]3[C@@H]4CC[C@H]([C@H](C)CO[Si](C(C)C)(C(C)C)C(C)C)[C@]4(CC[C@@H]3[C@]2(CC[C@@H]1O)C)C)C | C33H60O2Si
